US04147552
Preparation of 3-acetyl-7-methoxycoumarin.
A mixture of 15.2 g 2-hydroxy-4-methoxybenzaldehyde and 13.5 g ethyl acetoacetate was warmed on a hot plate until solution was attained. Thirty drops of piperidine were added and the reaction mixture continued to be heated gently. After several minutes the reaction mixture solidified. After cooling, the product was recrystallized from a mixture of alcohol and acetonitrile. Yield 20 g.

reactant | 2-hydroxy-4-methoxybenzaldehyde | 15.2 g | OC1=C(C=O)C=CC(=C1)OC | C8H8O3
reactant | ethyl acetoacetate | 13.5 g | C(CC(=O)C)(=O)OCC | C6H10O3
catalyst | piperidine | Thirty drops | N1CCCCC1 | C5H11N
product | 3-acetyl-7-methoxycoumarin | C(C)(=O)C=1C(OC2=CC(=CC=C2C1)OC)=O | C12H10O4
